US05663181
0.5 g of 3-[1,2-dihydro-1-(3-nitrophenyl)-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile, prepared in Example 111, is suspended in 15 ml of methanol and 10 ml of water, in the presence of 0.5 g of iron powder. The suspension is heated to about 50° C. and 0.5 ml of concentrated hydrochloric acid is added dropwise. The reaction mixture is refluxed for 45 minutes and then cooled to room temperature. The residual iron is removed and the filtrate is diluted with water, treated with 0.5 g of potassium carbonate and extracted with dichloromethane. The organic phase is decanted, washed with water, dried and concentrated to give 0.2 g of 3-[1-(3-aminophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile in the form of a bright yellow solid melting at 280° C., after purification on a silica column (eluent: dichloromethane/methanol 98.5/1.5). Yield 40%.

reactant | 3-[1,2-dihydro-1-(3-nitrophenyl)-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile | 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C(=CC2=CC=CN=C12)C=C(C#N)C=1C=NC=CC1)=O | C22H13N5O3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | iron | 0.5 g | [Fe] | Fe
product | 3-[1-(3-aminophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-2-(3-pyridyl)prop-2-enenitrile | 0.2 g, Yield 40% | NC=1C=C(C=CC1)N1C(C(=CC2=CC=CN=C12)C=C(C#N)C=1C=NC=CC1)=O | C22H15N5O
